US08877782B2
N-(3-Hydroxy-2,2-dimethyl-propyl)-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide
As described for example 8b, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (310 mg, 1.0 mmol) was converted, using 3-amino-2,2-dimethyl-1-propanol instead of methylamine, to the title compound (235 mg, 59%) which was obtained as a white solid. MS: m/e=396.2 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 1.0 mmol, 310 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | 3-amino-2,2-dimethyl-1-propanol | NCC(CO)(C)C | C5H13NO
product | N-(3-Hydroxy-2,2-dimethyl-propyl)-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide | 235 mg, 59% | OCC(CNC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC=CC=C1)=O)(C)C | C22H25N3O4
